US08389511B2
tert-Butyl (3R)-3-[({3,3-dimethyl-2-oxo-1-[2-(propionylamino)ethyl]-2,3-dihydro-1H-indol-6-yl}carbonyl)(isopropyl)amino]piperidine-1-carboxylate
To tert-butyl (3R)-3-[{[1-(2-aminoethyl)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate (300 mg) were added triethylamine (0.14 ml), THF (3 ml) and acetyl chloride (0.07 ml) under ice-cooling, and the mixture was stirred at room temperature for one hour. After the reaction was complete, the mixture was concentrated, and the obtained residue was purified by silica gel column chromatography (chloroform/methanol=9/1) to give the title compound (190 mg) as colorless amorphous.

reactant | tert-butyl (3R)-3-[{[1-(2-aminoethyl)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 300 mg | NCCN1C(C(C2=CC=C(C=C12)C(=O)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(C)C)(C)C)=O | C26H40N4O4
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.07 ml | C(C)(=O)Cl | C2H3ClO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | tert-Butyl (3R)-3-[({3,3-dimethyl-2-oxo-1-[2-(propionylamino)ethyl]-2,3-dihydro-1H-indol-6-yl}carbonyl)(isopropyl)amino]piperidine-1-carboxylate | 190 mg | CC1(C(N(C2=CC(=CC=C12)C(=O)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(C)C)CCNC(CC)=O)=O)C | C29H44N4O5
